US05707987
To a solution of (2S,4S)-4-acetylthio-N-(p-nitrobenzyloxycarbonyl)-2-[4-[N-(p-nitrobenzyloxycarbonyl)aminomethyl]phenoxymethyl]-pyrrolidine (786 mg, 1.23 mmol) in tetrahydrofuranmethanol (1:1, 20 ml), 1N aqueous sodium hydroxide (1.48 ml, 1.48 mmol) was added in a nitrogen stream under cooling with ice. The reaction solution was stirred at 2 hours, and 1N hydrochloric acid (1.6 ml, 1.6 mmol) was added thereto. The resulting mixed solution was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The solvent was distilled off in vacuo to obtain a crude product of (2S,4S)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)-2-[4-[N-(p-nitrobenzyloxycarbonyl)aminomethyl]phenoxymethyl]-pyrrolidine.

reactant | (2S,4S)-4-acetylthio-N-(p-nitrobenzyloxycarbonyl)-2-[4-[N-(p-nitrobenzyloxycarbonyl)aminomethyl]phenoxymethyl]-pyrrolidine | 1.23 mmol, 786 mg | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COC1=CC=C(C=C1)CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C30H30N4O10S
reactant | sodium hydroxide | 1.48 mmol, 1N, 1.48 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1.6 mmol, 1N, 1.6 ml | Cl | ClH
solvent | tetrahydrofuranmethanol | 20 ml | O1C(CCC1)CO | C5H10O2
product | (2S,4S)-4-mercapto-N-(p-nitrobenzyloxycarbonyl)-2-[4-[N-(p-nitrobenzyloxycarbonyl)aminomethyl]phenoxymethyl]-pyrrolidine | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COC1=CC=C(C=C1)CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C28H28N4O9S
